US06610723B2
[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl]-methanol
1-(3,4-Dichloro-phenyl)-1H-imidazole-4-carboxylic acid (20.0 g, 77.8 mmol) was treated with 1M BH3 THF complex (100 ml) and refluxed for 2 h. The mixture was cooled to 5° C. and MeOH (20 ml) was added slowly. After evaporation of all volatiles the residue was taken up in 2N HCl solution (100 ml) and refluxed for 2 h. After filtration the hot aqueous phase was slowly treated with 2N NaOH solution until pH 10. On cooling the title compound crystallizes as a white material (12.2 g, 65%). Mp. 146-147° C. (H2O), MS: m/e=242 (M+).

reactant | 1-(3,4-Dichloro-phenyl)-1H-imidazole-4-carboxylic acid | 77.8 mmol, 20.0 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)C(=O)O | C10H6Cl2N2O2
solvent | MeOH | 20 ml | CO | CH4O
product | [1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl]-methanol | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CO | C10H8Cl2N2O
